US05686424
Using the procedure described in Example 5, treatment of L-proline-L-isoleucine benzylamide (200 mg, 0.63 mmol) with 3'-phenoxy-2-chloroacetophenone (233 mg, 0.95 mmol, 1.5 eq; prepared from 3-phenoxybenzoic acid by the method described in Example 1) provided 80 mg of L-isoleucine, N-[1-(2-(3-phenoxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide as a foam.

reactant | L-proline L-isoleucine benzylamide | 0.63 mmol, 200 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | 3'-phenoxy-2-chloroacetophenone | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(CCl)=O | C14H11ClO2
reactant | 3-phenoxybenzoic acid | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
product | L-isoleucine, N-[1-(2-(3-phenoxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide | 80 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C32H37N3O4
